US05541210
HOAc. A solution of 1,4-dimethyl-5-benzimidazolylisothiocyanate (210 mg) in methylene chloride (40 mL) is added dropwise over 20 minutes to ethylenediamine (0.35 mL) in solution in methylene chloride (100 mL). The mixture is stirred for 1 hour at room temperature, then rotary evaporated. The residue is dissolved in methanol (70 mL), mercuric acetate (395 mg) is added, and the mixture is stirred at room temperature for 2 hours. The resulting black suspension is filtered on Celite with methanol wash of the solids. The filtrate is rotary evaporated, and the residue is purified by flash chromatography on silica gel, eluting with 10% methanol/chloroform containing 0.1% of ammonium hydroxide. The product-containing fractions are combined and rotary evaporated to yield 1,4-dimethyl-5-(2-imidazolinylamino)benzimidazole.HOAc.

reactant | HOAc | CC(=O)O | C2H4O2
reactant | 1,4-dimethyl-5-benzimidazolylisothiocyanate | 210 mg | CN1C=NC2=C1C=CC(=C2C)N=C=S | C10H9N3S
reactant | ethylenediamine | 0.35 mL | C(CN)N | C2H8N2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 70 mL | CO | CH4O
product | 1,4-dimethyl-5-(2-imidazolinylamino)benzimidazole | CN1C=NC2=C1C=CC(=C2C)NN2C=NCC2 | C12H15N5
